US06727264B1
N-(3-{1-[4-(DIBUTYLAMINO)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-(dibutylamino)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 464.6 (M+H)+.

reactant | 4-(dibutylamino)benzaldehyde | C(CCC)N(C1=CC=C(C=O)C=C1)CCCC | C15H23NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[4-(DIBUTYLAMINO)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C(CCC)N(C1=CC=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C1)CCCC | C30H45N3O
